2188-07-18 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   UA positive for RBC, sent off repeat UA and cytology given concern for
   renal involvement
   stool guaiac positive
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Cholestasis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-7-18**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   11.0 g/dL
   169 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   17 mg/dL
   100 mEq/L
   131 mEq/L
   33.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2188-7-16**]  04:00 PM
                             [**2188-7-16**]  05:15 PM
                             [**2188-7-17**]  03:42 AM
                             [**2188-7-17**]  03:27 PM
                             [**2188-7-18**]  04:04 AM
   WBC
   2.5
   4.2
   4.6
   3.6
   Hct
   33.8
   40.5
   32.3
   33.3
   Plt
   76
   86
   74
   68
   Cr
   0.7
   0.6
   0.8
   0.6
   TropT
   0.02
   0.03
   0.02
   Glucose
   131
   118
   101
   169
   Other labs: PT / PTT / INR:32.2/46.8/3.3, CK / CKMB /
   Troponin-T:185/5/0.02, ALT / AST:26/63, Alk Phos / T Bili:77/1.1,
   Differential-Neuts:92.3 %, Lymph:4.0 %, Mono:3.2 %, Eos:0.2 %, LDH:228
   IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   71 year old man with likely microscopic polyangiitis and now with
   transient fevers and hypoxia of unclear etiology, now transferred to
   the MICU service for ongoing care.
   .
   Plan:
   ## Fevers: unclear etiology; could be pneumonia, though must rule out
   vasculitis-related etiologies
   - cont empiric levofloxacin; f/u pending micro data from here and
   [**Hospital1 **]
   - bronchoscopy this afternoon to eval for alveolar hemorrhage; send BAL
   for micro
   - f/u beta-D-glucan, galactomannan, parvovirus, CMV serologies;
   - Legionella antigen and Lyme serologies negative
   - prn meperidine for rigors
   .
   ## Microscopic polyangiitis
   - rheumatology consult called this morning by CCU team; f/u recs
   - cont prednisone 60 mg daily for now pending rheum recs; TMP/SMX for
   PCP [**Name Initial (PRE) 1374**]; vitamin D/calcium for bone prophylaxis
   - f/u ANCA titer
   .
   ## Hypoxia; transient with fevers/rigors
   - bronchoscopy this afternoon
   - follow CXRs
   .
   ## Pancytopenia: leukopenia and anemia seemingly have resolved this
   morning, though wonder if this could be a lab artifact given marked
   change in Hgb/Hct; likely a sequela of azathioprine use
   - cont holding azathioprine for now
   - recheck CBC
   - f/u parasite smear for Babesia, SPEP/UPEP
   - consider heme consult if persistent
   - add on LDH, reticulocyte count, TBili, haptoglobin
   .
   ## CAD s/p CABG; minor troponin-T elevation likely from acute medical
   stressors and not representative of ACS/NSTEMI
   - cont aspirin; resume beta blocker once stable
   .
   ## Atrial fibrillation
   - cont warfarin
   - cont holding beta blockade for now given possibility of ongoing
   infection
   - follow INR given antibiotics most likely to change it
   .
   ## FEN: NPO pending bronchoscopy
   ## Prophylaxis: therapeutic on warfarin; on ppi
   ## Access: peripheral IVs
   ## Communication: with patient
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: